US08012972B2
6-Hydroxymethylpyridine-3-carboxylic acid (Reference Compound No. 10-1)
Under ice cooling, 2 M aqueous sodium hydroxide solution (3.0 mL) was added to a solution of 6-acetoxymethylpyridine-3-carboxylic acid methyl ester (Reference Compound No. 9-1, 0.60 g, 2.9 mmol) in methanol (6.0 mL). The reaction mixture was stirred under ice cooling for 40 minutes and at room temperature for 4 hours. Under ice cooling, 2 M hydrochloric acid (3.1 mL) was added thereto, and then the solvent was evaporated under reduced pressure to give the title reference compound as an orange solid.

reactant | sodium hydroxide | 2 M, 3.0 mL | [OH-].[Na+]
reactant | 6-acetoxymethylpyridine-3-carboxylic acid methyl ester | 2.9 mmol, 0.60 g | COC(=O)C=1C=NC(=CC1)COC(C)=O | C10H11NO4
reactant | hydrochloric acid | 2 M, 3.1 mL | Cl | ClH
solvent | methanol | 6.0 mL | CO | CH4O
product | 6-Hydroxymethylpyridine-3-carboxylic acid | OCC1=CC=C(C=N1)C(=O)O | C7H7NO3
